US07871998B2
N2-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-glutamine
[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid (50 mg, 0.103 mmol), tert-butyl L-glutaminate hydrochloride (30 mg, 0.124 mmol) and N-methylmorpholine (40 mg, 0.396 mmol) were dissolved in methylene chloride (1 ml). TBTU (40 mg, 0.125 mmol) was added and the mixture was stirred for 90 min. The solvent was evaporated and the residue was dissolved in formic acid (1 ml). The mixture was heated to 45-50° C. for 4 h. The reaction mixture was evaporated under reduced pressure. Toluene (5 ml) was added and evaporated. The residue was dissolved in methanol (1 ml). NaBH4 (30 mg, 0.793 mmol) was added and the mixture was stirred for 15 min. Acetic acid (50 mg, 0.83 mmol) was added and the reaction mixture was evaporated under reduced pressure. The residue was purified by preparative HPLC using acetonitrile/ammonium acetate buffer (35:65) as eluent. After freeze-drying 47 mg (74%) of the title compound was obtained. 1H-NMR, 300 MHz, DMSO): 1.72-2.16 (m, 4H), 2.81-2.95 (m, 2H), 4.08-4.20 (m, 1H), 4.26-4.31 (m, 1H), 4.50 (s, 2H), 4.65-4.78 (m, 1H), 5.03-5.08 (m, 1H), 6.68 (s, 1H), 6.89-7.44 (m, 14H), 8.29 (d, 1H).

reactant | [4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetic acid | 0.103 mmol, 50 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)O)C=C1 | C25H19F2NO5S
reactant | tert-butyl L-glutaminate hydrochloride | 0.124 mmol, 30 mg | Cl.N[C@@H](CCC(N)=O)C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 0.396 mmol, 40 mg | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.125 mmol, 40 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NaBH4 | 0.793 mmol, 30 mg | [BH4-].[Na+]
reactant | Acetic acid | 0.83 mmol, 50 mg | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | DMSO | CS(=O)C | C2H6OS
product | N2-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-L-glutamine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@@H](CCC(N)=O)C(=O)O)C=C1 | C30H29F2N3O7S
